US03941803
In the manner given in Example 1, 5-fluoro-2-(imidazol-1-yl)benzophenone is heated in a bomb to 150° C. with 37% aqueous formaldehyde solution to give 5-fluoro-2-[2-(hydroxymethyl)imidazol-1-yl]benzophenone.

reactant | 5-fluoro-2-(imidazol-1-yl)benzophenone | FC=1C=CC(=C(C(=O)C2=CC=CC=C2)C1)N1C=NC=C1 | C16H11FN2O
reactant | formaldehyde | C=O | CH2O
product | 5-fluoro-2-[2-(hydroxymethyl)imidazol-1-yl]benzophenone | FC=1C=CC(=C(C(=O)C2=CC=CC=C2)C1)N1C(=NC=C1)CO | C17H13FN2O2
